US04873334
Preparation of methyl 5-amino-1-methylpyrazole-3-carboxylate
To a solution of 48 mg (2.1 mmol) of sodium in 40 ml of methanol is added 2.0 mg (11.8 mmol) of 5-amino-3-ethoxycarbonyl-1-methylpyrazole, and the mixture is refluxed over night, and distilled under reduced pressure. To the resulting residue are added a small amount of water and sodium chloride, and the mixture is extracted 6 times with chloroform. The extract is dried with magnesium sulfate, chromatographed on a column of silica gel and eluted with ethyl acetate to give 1.37 g (74.1% yield) of the objective compound.

reactant | sodium | 2.1 mmol, 48 mg | [Na] | Na
reactant | 5-amino-3-ethoxycarbonyl-1-methylpyrazole | 11.8 mmol, 2.0 mg | NC1=CC(=NN1C)C(=O)OCC | C7H11N3O2
solvent | methanol | 40 ml | CO | CH4O
product | methyl 5-amino-1-methylpyrazole-3-carboxylate | 1.37 g, 74.1% yield | NC1=CC(=NN1C)C(=O)OC | C6H9N3O2
